US08440693B2
Intermediate 1.4: N-[1-(4-Chloro-phenyl)-meth-(E)-ylidene]-N′,N′-dimethyl-benzene-1,4-diamine
To a mixture of 4-chloro-benzaldehyde (1.55 g, 11.0 mmol) and N,N-dimethyl-benzene-1,4-diamine (1.5 g, 11.0 mmol) in EtOH (15 ml) was added a catalytic amount of AcOH (0.063 ml, 1.1 mmol) at RT. The reaction mixture was heated at reflux and stirred for 14 h during which time precipitation took place. After cooling to RT, the slurry was filtered and washed with heptane. The solid was collected and dried under high vacuum to yield the title compound (2.09 g, 8.08 mmol, 73%) as a brownish solid. 1H NMR (400 MHz, CDCl3): 3.01 (s, 6H), 6.78 (m, 2H), 7.29 (m, 2H), 7.44 (m, 2H), 7.84 (m, 2H), 8.49 (s, 1H).

reactant | 4-chloro-benzaldehyde | 11.0 mmol, 1.55 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | N,N-dimethyl-benzene-1,4-diamine | 11.0 mmol, 1.5 g | CN(C1=CC=C(C=C1)N)C | C8H12N2
reactant | AcOH | 1.1 mmol, 0.063 ml | CC(=O)O | C2H4O2
solvent | EtOH | 15 ml | CCO | C2H6O
product | N-[1-(4-Chloro-phenyl)-meth-(E)-ylidene]-N′,N′-dimethyl-benzene-1,4-diamine | 8.08 mmol, 2.09 g, 73% | ClC1=CC=C(C=C1)\C=N\C1=CC=C(C=C1)N(C)C | C15H15ClN2
